US08048887B2
Methyl 3-(benzyloxy)-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
To the solution of methyl 3-(benzyloxy)-4-methyl-5(trifluoromethylsulfonyloxy)benzoate (1.2 g, 2.96 mmol, 1.0 eq) in 1,4-dioxane was added PdCl2(dppf) in DCM complex (242 mg, 0.296 mmol, 0.1 eq) followed by bis(pinacolato)diboron (1.5 g, 5.93 mmol, 2.0 eq). To this stirred solution TEA (1.5 g, 14.83 mmol, and 5.0 eq) was added. The reaction mixture was slowly heated to 110° C. and maintained for two days in a sealed tube. 1,4-Dioxane was evaporated under reduced pressure. To the residue water was added and the aqueous layer was extracted thrice with DCM. The combined DCM layer was dried over sodium sulphate and evaporated under vacuum. The crude was purified by silica gel (60-120) column chromatography using 1% ethyl acetate/hexane as the eluent. Yield: 0.8 g (70%). 1H NMR (400 MHz, CDCl3): δ 1.39 (s, 12H), 2.53 (s, 3H), 3.91 (s, 3H), 5.17 (s, 2H), 7.33-7.35 (d, 1H, J=7.36 Hz), 7.39-7.42 (t, 2H, J=7.50 Hz), 7.48-7.50 (d, 2H, J=7.40 Hz), 7.67-7.68 (d, 1H, J=1.20 Hz), 8.00-8.01 (d, 1H, J=1.40 Hz).

reactant | methyl 3-(benzyloxy)-4-methyl-5(trifluoromethylsulfonyloxy)benzoate | 2.96 mmol, 1.2 g, 1.0 eq | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1C)OS(=O)(=O)C(F)(F)F | C17H15F3O6S
reactant | bis(pinacolato)diboron | 5.93 mmol, 1.5 g, 2.0 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methyl 3-(benzyloxy)-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1C)B1OC(C(O1)(C)C)(C)C | C22H27BO5
